US04367238
Powdered potassium cyanide (12.50 g) and sodium iodide (28.80 g) were added to a solution of o-tolyl 2-methoxy-3-chloromethylphenyl ether (47.50 g) in dimethylsulfoxide (100 ml) and stirred at room temperature for 30 minutes. The reaction mixture was poured into water and extracted with diethyl ether. The extract was washed with water 3 times, dried over magnesium sulfate and then evaporated to give only 2-[2-methoxy-3-(o-tolyloxy)phenyl]acetonitrile (44.0 g).

reactant | potassium cyanide | 12.50 g | [C-]#N.[K+]
reactant | sodium iodide | 28.80 g | [I-].[Na+]
reactant | o-tolyl 2-methoxy-3-chloromethylphenyl ether | 47.50 g | COC1=C(C=CC=C1CCl)OC=1C(=CC=CC1)C | C15H15ClO2
reactant | water | O | H2O
solvent | dimethylsulfoxide | 100 ml | CS(=O)C | C2H6OS
product | 2-[2-methoxy-3-(o-tolyloxy)phenyl]acetonitrile | 44.0 g | COC1=C(C=CC=C1OC1=C(C=CC=C1)C)CC#N | C16H15NO2
